US09029409B2
To a stirred solution of (S)-1-(((2R,5R)-5-((S)-3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)-1,4-dioxan-2-yl)methylamino)-1-oxopropan-2-yl acetate (0.11 g, 0.192 mmol) in ACN (3 mL) was added 2.5M lithium hydroxide (1.151 mL, 2.88 mmol) at RT. The reaction mixture was stirred for 3 h, diluted with EtOAc (25 mL) and washed with brine solution (2×15 mL). The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The resulting crude material was purified by preparative TLC eluting with 100% EtOAc to afford N-(4-fluoro-3-methoxybenzyl)-6-((S)-5-((2R,5R)-5-(((S)-2-hydroxypropanamido) methyl)-1,4-dioxan-2-yl)-4,5-dihydroisoxazol-3-yl)-2-methylpyrimidine-4-carboxamide 0.055 g (52%); 1H NMR (400 MHz, DMSO): δ 9.48 (t, J=6.4 Hz, 1H), 8.13 (s, 3H), 7.68 (t, 1H), 7.17-7.13 (m, 2H), 6.88 (m, 1H), 5.5 (d, J=4.8 Hz, 1H), 4.81-4.75 (m, 1H), 4.48 (d, J=6.0 Hz, 2H), 3.96-3.86 (m, 2H), 3.81 (s, 3H), 3.76-3.73 (m, 1H), 3.66-3.63 (m, 1H), 3.52-3.3.36 (m, 4H), 3.29-3.11 (m, 1H), 3.09 (m, 2H), 2.75 (s, 3H), 1.19 (d, J=6.8 Hz, 3H); LC/MS (Table 1, method c) Rt=2.89 min; MS: m/z 532 (m+H)+.

reactant | (S)-1-(((2R,5R)-5-((S)-3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)-1,4-dioxan-2-yl)methylamino)-1-oxopropan-2-yl acetate | 0.192 mmol, 0.11 g | C(C)(=O)O[C@H](C(=O)NC[C@H]1OC[C@@H](OC1)[C@@H]1CC(=NO1)C1=NC(=NC(=C1)C(NCC1=CC(=C(C=C1)F)OC)=O)C)C | C27H32FN5O8
reactant | lithium hydroxide | 2.88 mmol, 2.5M, 1.151 mL | [OH-].[Li+]
solvent | ACN | 3 mL | C(C)#N | C2H3N
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | N-(4-fluoro-3-methoxybenzyl)-6-((S)-5-((2R,5R)-5-(((S)-2-hydroxypropanamido) methyl)-1,4-dioxan-2-yl)-4,5-dihydroisoxazol-3-yl)-2-methylpyrimidine-4-carboxamide | 0.055 g, 52% | FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C2=NO[C@@H](C2)[C@@H]2OC[C@H](OC2)CNC([C@H](C)O)=O)C)C=C1)OC | C25H30FN5O7
